US06562811B1
To a solution of 3-pyrrolidinylmethanol (2.33 g, 21 mmol) and triethylamine (4.8 mL, 35 mmol) in dichloromethane (60 mL) was added di(tert-butyl) dicarbonate (5.3 g, 24 mmol) at 0° C. The reaction mixture was stirred at room temperature for 26 hrs. The mixture was diluted with ethyl acetate (200 mL), and washed with 1N HCl (100 mL), with a saturated aqueous NaHCO3 solution (100 mL) and with brine (100 mL), successively. The organic phase was dried over Na2SO4, filtered, and concentrated under reduced pressure to give tert-butyl 3-(hydroxymethyl)-1-pyrrolidinecarboxylate (4.06 g, yield; 96%).

reactant | 3-pyrrolidinylmethanol | 21 mmol, 2.33 g | N1CC(CC1)CO | C5H11NO
reactant | triethylamine | 35 mmol, 4.8 mL | C(C)N(CC)CC | C6H15N
reactant | di(tert-butyl) dicarbonate | 24 mmol, 5.3 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl 3-(hydroxymethyl)-1-pyrrolidinecarboxylate | 4.06 g, yield; 96% | OCC1CN(CC1)C(=O)OC(C)(C)C | C10H19NO3
